US08304557B2
2-amino[1,2,4]triazolo[1,5-a]pyridin-6-ol hydrobromide
A mixture of 6-methoxy[1,2,4]triazolo[1,5-a]pyridin-2-amine (780 mg, 4.75 mmol) and 48% hydrobromic acid (3 mL) was stirred under refluxing conditions for 7 hr. 48% Hydrobromic acid (2 mL) was further added, and the mixture was stirred with heating under reflux for 3 hr. The mixture was concentrated under reduced pressure, and diisopropyl ether (2 mL) and ethanol (1 mL) were added to the residue. The precipitate was collected by filtration and washed with diisopropyl ether to give the title compound (984 mg, 89%) as a brown solid.

reactant | 6-methoxy[1,2,4]triazolo[1,5-a]pyridin-2-amine | 4.75 mmol, 780 mg | COC=1C=CC=2N(C1)N=C(N2)N | C7H8N4O
reactant | hydrobromic acid | 3 mL | Br | BrH
reactant | Hydrobromic acid | 2 mL | Br | BrH
product | 2-amino[1,2,4]triazolo[1,5-a]pyridin-6-ol hydrobromide | 984 mg, 89% | Br.NC1=NN2C(C=CC(=C2)O)=N1 | InChI=1S/C6H6N4O.BrH/c7-6-8-5-2-1-4(11)3-10(5)9-6;/h1-3,11H,(H2,7,9);1H
